US09278960B2
Methyl 4-(2-fluoro-4-methoxyphenyl)-7-(prop-1-en-2-yl)quinoline-2-carboxylate (1.5 g, 4.27 mmol) was dissolved in THF (7.8 ml), heated to 60° C. and then added 9-BBN (0.5M THF, 10.7 ml, 5.35 mmol) dropwise over 5 minutes. After 1 hour, allowed to cool to ambient. Added 5-bromo-2-methylpyrimidine (0.886 g, 5.12 mmol), Pd2(dba)3 (0.195 g, 0.213 mmol), butyldi-1-adamantylphosphine (0.153 g, 0.427 mmol), potassium carbonate (2.360 g, 17.08 mmol) and water (0.776 ml), degassed 5 minutes with nitrogen and then heated to 90° C. in a sealed tube for 30 minutes. The reaction was allowed to cool to ambient temperature. To the mixture was added brine and then EtOAc. The organic portion was collected, dried (MgSO4) and then concentrated. The residue was purified by column chromatography on silica gel, eluting with CHCl3 to 70:25:5 CHCl3/EtOAc/MeOH to afford methyl 4-(2-fluoro-4-methoxyphenyl)-7-[1-(2-methylpyrimidin-5-yl)propan-2-yl]quinoline-2-carboxylate (335 mg, 0.752 mmol, 17.62% yield) as an orange oil.

reactant | Methyl 4-(2-fluoro-4-methoxyphenyl)-7-(prop-1-en-2-yl)quinoline-2-carboxylate | 4.27 mmol, 1.5 g | FC1=C(C=CC(=C1)OC)C1=CC(=NC2=CC(=CC=C12)C(=C)C)C(=O)OC | C21H18FNO3
reactant | 9-BBN | 5.35 mmol, 0.5M, 10.7 ml | B1C2CCCC1CCC2 | C8H15B
reactant | 5-bromo-2-methylpyrimidine | 5.12 mmol, 0.886 g | BrC=1C=NC(=NC1)C | C5H5BrN2
reactant | butyldi-1-adamantylphosphine | 0.427 mmol, 0.153 g | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | potassium carbonate | 17.08 mmol, 2.360 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 7.8 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
catalyst | Pd2(dba)3 | 0.213 mmol, 0.195 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 0.776 ml | O | H2O
product | methyl 4-(2-fluoro-4-methoxyphenyl)-7-[1-(2-methylpyrimidin-5-yl)propan-2-yl]quinoline-2-carboxylate | 0.752 mmol, 335 mg, 17.62% yield | FC1=C(C=CC(=C1)OC)C1=CC(=NC2=CC(=CC=C12)C(CC=1C=NC(=NC1)C)C)C(=O)OC | C26H24FN3O3
